US04443631
Solutions of 375 ml (325 g, 2.8 moles) of isoamyl nitrite, and of 378 grams (2.0 moles) of crude 4-bromo-2-fluoroaniline in 250 ml benzene are added separately and simultaneously dropwise over about 20 hours to 3500 ml of benzene vigorously stirred under a nitrogen atmosphere, and kept in a water bath at 65° C. The mixture is kept overnight at 65° C., then cooled, washed twice with 250 ml of water and evaporated. The dark oily residue is dissolved in 750 ml methanol and 450 ml concentrated hydrochloric acid, and treated with 138 grams (2.1 moles) of granular zinc, added in small portions over about 6 hours. In order to complete this "reductive upgrading", the solution is treated with 54 grams (1.0 mole) of fine iron filings over 0.5 hours. Within one hour the color of the mixture is visibly lighter. The solution is diluted with one liter of water and one liter of Skellysolve B hexanes, and the liquids are decanted from the remaining metals. The aqueous phase is extracted twice with one liter of Skellysolve B hexanes and the one liter of water, one liter of 1 N NaOH, and one liter of water. The solution is then passed through anhydrous sodium sulfate and evaporated to provide 389 grams of 4-bromo-2-fluoro-biphenyl.

reactant | isoamyl nitrite | 2.8 moles, 375 ml, 325 g | N(=O)OCCC(C)C | C5H11NO2
reactant | 4-bromo-2-fluoroaniline | 2.0 moles, 378 grams | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
reactant | benzene | 250 ml | C1=CC=CC=C1 | C6H6
solvent | hydrochloric acid | 450 ml | Cl | ClH
solvent | water | one liter | O | H2O
catalyst | zinc | 2.1 moles, 138 grams | [Zn] | Zn
catalyst | iron | 1.0 mole, 54 grams | [Fe] | Fe
product | 4-bromo-2-fluoro-biphenyl | 389 grams | BrC1=CC(=C(C=C1)C1=CC=CC=C1)F | C12H8BrF
